US06903215B2
To a solution of 25.5 g (0.212 mol) of 2,3-dihydrobenzofuran in 175 mL of acetic acid was added about one quarter of 4.5 mL (0.227 mol) of 70% aqueous nitric acid dropwise. The reaction was monitored by TLC (EtOAc-hexanes, 15:85). The mixture was warmed to 70° C. where the reaction began. The remainder of the nitric acid was then added while maintaining the reaction at 70° C. After 30 minutes, the reaction was cooled and poured into 1.5 L of ice water. The black solid was collected by filtration washing with water. The solid was partitioned between 500 mL of saturated aqueous sodium bicarbonate and 150 mL of EtOAc. The aqueous layer was separated and extracted with three 150 mL portions of EtOAc. The combined organic layers were washed with three 100 mL portions of saturated aqueous sodium bicarbonate, 100 mL of saturated aqueous ammonium chloride, 100 mL of brine, dried over magnesium sulfate, filtered, and concentrated to afford a red oil/solid. The mixture was dissolved in dichloromethane and passed through a pad of silica gel, eluting with dichloromethane, and concentrated. The resulting red mixture was triturated with ether-hexanes (1:1) and filtered to afford 10.5 g (29%) of 5-nitro-2,3-dihydrobenzofuran as a tan solid.

reactant | 2,3-dihydrobenzofuran | 0.212 mol, 25.5 g | O1CCC2=C1C=CC=C2 | C8H8O
reactant | nitric acid | 0.227 mol, 4.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 175 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-nitro-2,3-dihydrobenzofuran | 10.5 g, 29% | [N+](=O)([O-])C=1C=CC2=C(CCO2)C1 | C8H7NO3
